US04277486
Ethereal hydrogen chloride is added dropwise to a solution of 1.0 g. 1-[(6-methyl-2-naphthoyl)methyl]imidazole in 100 ml. ether until precipitation is complete. The product is filtered, washed with ether, airdried and recrystallized from methanol/acetone to yield 1-[(6-methyl-2-naphthoyl)methyl]imidazole hydrochloride, m.p. 271°-272° C. (decomp).

reactant | hydrogen chloride | Cl | ClH
reactant | 1-[(6-methyl-2-naphthoyl)methyl]imidazole | CC=1C=C2C=CC(=CC2=CC1)C(=O)CN1C=NC=C1 | C16H14N2O
product | 1-[(6-methyl-2-naphthoyl)methyl]imidazole hydrochloride | Cl.CC=1C=C2C=CC(=CC2=CC1)C(=O)CN1C=NC=C1 | InChI=1S/C16H14N2O.ClH/c1-12-2-3-14-9-15(5-4-13(14)8-12)16(19)10-18-7-6-17-11-18;/h2-9,11H,10H2,1H3;1H
